US04743685
(B) 2-(Aminomethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone
2-(Azidomethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone (1.0 g, 2.89 mmol) was dissolved in 50 ml of methanol and 0.10 g of platinic oxide was added. Hydrogen was bubbled through the mixture for 30 minutes and the catalyst filtered off by suction over Hyflo. The filtrate was evaporated in vacuo and the oily residue triturated with ether to afford crystalline title compound (0.89 g), melting point 207° C.

reactant | 2-(Azidomethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone | 2.89 mmol, 1.0 g | N(=[N+]=[N-])CC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C20H18N4O2
solvent | methanol | 50 ml | CO | CH4O
product | 2-(Aminomethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone | 0.89 g | NCC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C20H20N2O2
